US04052511
1-(3-Methoxycarbonyl-2-methylpropanoyl)-L-proline (2.4 g.) is dissolved in a mixture of dichloromethane (50 ml.) and triethylamine (1.4 ml.). The solution is chilled in an ice water bath and isobutylchloroformate (1.36 g.) is added while the mixture is stirred. After 10 minutes ammonia (gas) is bubbled through the solution, still in the ice bath, for fifteen minutes. The reaction mixture is stirred for 1 hour at room temperature, diluted with methylene chloride (100 ml.) and washed with water, 0.1 N hydrochloric acid, water, and dried over magnesium sulfate. The solvent is removed in vacuo to yield 1-(3-methoxycarbonyl-2-methylpropanoyl)-L-prolineamide.

reactant | 1-(3-Methoxycarbonyl-2-methylpropanoyl)-L-proline | 2.4 g | COC(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)C | C11H17NO5
reactant | isobutylchloroformate | 1.36 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(3-methoxycarbonyl-2-methylpropanoyl)-L-prolineamide | COC(=O)CC(C(=O)N1[C@H](C(=O)N)CCC1)C | C11H18N2O4
